US08022062B2
4-(3,3-Dimethyl-2-oxo-butoxy)-benzylamine:
Add 5N aqueous NaOH (15 mL) to a solution of N-[4-(3,3-dimethyl-2-oxo-butoxy)-benzyl]-2,2,2-trifluoro-acetamide (552 mg, 1.74 mmol) in methanol (0 mL) and stir for 2 h at ambient temperature. Extract the mixture with DCM three times. Dry the combined organic extracts over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with DCM/2M ammonia in methanol (92:8) to give the title compound as a colorless oil (337 mg, 87%). MS (ES+) m/z: 205 M+H−NH3)+.

reactant | NaOH | 5N, 15 mL | [OH-].[Na+]
reactant | N-[4-(3,3-dimethyl-2-oxo-butoxy)-benzyl]-2,2,2-trifluoro-acetamide | 1.74 mmol, 552 mg | CC(C(COC1=CC=C(CNC(C(F)(F)F)=O)C=C1)=O)(C)C | C15H18F3NO3
solvent | methanol | 0 mL | CO | CH4O
product | 4-(3,3-Dimethyl-2-oxo-butoxy)-benzylamine | 337 mg, 87% | CC(C(COC1=CC=C(CN)C=C1)=O)(C)C | C13H19NO2
